US05182183
400 g of o-hydroxy-p-cyanoaniline, 4 g of hydroquinone monomethyl ether, 4 litres of acetone, and 360 g of pyridine were mixed and the mixture was cooled externally with a freezing medium. At a point when the internal temperature of the solution had dropped to -10° C., 420 g of methacrylic acid chloride was added dropwise to the mixture with stirring. Thereafter the mixture was treated in the same way as in Synthesis Example 1 to obtain 350 g of o-hydroxy-p-cyanomethacrylanilide. 76.8 g (0.38 mol) of this o-hydroxy-p-cyanomethacrylanilide was dissolved together with 68.4 g (0.60 mol) of ethyl methacrylate, 1.44 g (0.02 mol) of acrylic acid and 0.7 g of α,α'-azobisisobutyronitrile in 300 ml of an acetone/ethanol (1/2) mixed solvent. After replacing the atmosphere with nitrogen gas, the solution was heated at 65° C. for 4 hours to obtain a polymer solution. This polymer solution was poured into 3 litres of aqueous 5% HCl solution and the produced white precipitate was filtered and dried, giving 75 g of a white polymer. Determination of molecular weight of this polymer by the GPC method showed Mn=4,700 and Mw=33,000.

reactant | o-hydroxy-p-cyanoaniline | 400 g | OC1=C(N)C=CC(=C1)C#N | C7H6N2O
reactant | acetone | 4 litres | CC(=O)C | C3H6O
reactant | methacrylic acid chloride | 420 g | C(C(=C)C)(=O)Cl | C4H5ClO
catalyst | hydroquinone monomethyl ether | 4 g | COC1=CC=C(O)C=C1 | C7H8O2
solvent | pyridine | 360 g | N1=CC=CC=C1 | C5H5N
product | o-hydroxy-p-cyanomethacrylanilide | 350 g | OC1=C(NC(C(=C)C)=O)C=CC(=C1)C#N | C11H10N2O2
